### PR TITLE
[Merged by Bors] - feat(Probability): (conditionally) sub-Gaussian random variables

### PR DESCRIPTION
**Pull request by RemyDegenne**
Definitions of sub-Gaussian and conditionally sub-Gaussian, both as special cases of a definition of sub-Gaussian with respect to a kernel and a measure.

---

- [x] depends on: #22622
- [x] depends on: #22679

See #22433 for the Azuma-Hoeffding inequality for sub-Gaussian random variables.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 1]
```diff
@@ -0,0 +1,368 @@
...
+
+namespace Kernel.HasSubgaussianMGF
+
+section BasicProperties
+
+lemma aestronglyMeasurable (h : HasSubgaussianMGF X c κ ν) :
+    AEStronglyMeasurable X (κ ∘ₘ ν) := by
+  have h_int := h.integrable_exp_mul 1
+  simp only [one_mul] at h_int
+  exact (aemeasurable_of_aemeasurable_exp h_int.1.aemeasurable).aestronglyMeasurable
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:122]: The `simp` + `exact` combo can often be replaced by `simpa`.
```suggestion
  simpa using (aemeasurable_of_aemeasurable_exp h_int.1.aemeasurable).aestronglyMeasurable
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 2]
```diff
@@ -0,0 +1,368 @@
...
+lemma ae_integrable_exp_mul (h : HasSubgaussianMGF X c κ ν) (t : ℝ) :
+    ∀ᵐ ω' ∂ν, Integrable (fun y ↦ exp (t * X y)) (κ ω') :=
+  Measure.ae_integrable_of_integrable_comp (h.integrable_exp_mul t)
+
+lemma ae_aestronglyMeasurable (h : HasSubgaussianMGF X c κ ν) :
+    ∀ᵐ ω' ∂ν, AEStronglyMeasurable X (κ ω') := by
+  have h_int := h.ae_integrable_exp_mul 1
+  simp only [one_mul] at h_int
+  filter_upwards [h_int] with ω h_int
+  exact (aemeasurable_of_aemeasurable_exp h_int.1.aemeasurable).aestronglyMeasurable
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:133]:
```suggestion
  filter_upwards [h_int] with ω h_int
  simpa using (aemeasurable_of_aemeasurable_exp h_int.1.aemeasurable).aestronglyMeasurable
```

**Review by EtienneC30 — COMMENTED** [review]
Thank you, that's great! Mostly small suggestions with a nice golf for `zero`, I'll get to the conditional part later.

File: Mathlib/Probability/Moments/SubGaussian.lean (hunk 1 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:122]: Yes I know! It's just that while doing that kind of proof I `simp` something to simplify it, then remark that I am able to close the goal with `exact`, and I don't take the trouble to backtrack to see if I could merge some lines.
But thanks for those improvements!

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 3]
```diff
@@ -0,0 +1,368 @@
...
+    exact isClosed_le (continuous_mgf h_int) (by fun_prop)
+
+@[simp]
+lemma zero [IsFiniteMeasure ν] [IsZeroOrMarkovKernel κ] :
+    HasSubgaussianMGF (fun _ ↦ 0) 0 κ ν := by
+  refine .of_rat ?_ ?_
+  · simp
+  · refine fun q ↦ ?_
+    simp only [mgf_const', mul_zero, exp_zero, mul_one, NNReal.coe_zero, zero_mul, zero_div]
+    exact ae_of_all _ fun _ ↦ toReal_prob_le_one
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:197]: NIce golf! The definition I had changed something like 4 times, so perhaps `of_rat` was useful at some point? Perhaps not!

I'll change the names, good catch. That code was written before the outcome of that unfortunate poll.

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 4]
```diff
@@ -0,0 +1,360 @@
...
+  for all `t : ℝ`.
+  This is equivalent to `Kernel.HasSubgaussianMGF` with a constant kernel.
+  See `HasSubgaussianMGF_iff_kernel`.
+* `HasCondSubgaussianMGF`: a random variable `X` has a conditionally sub-Gaussian moment generating
+  function with parameter `c` with respect to a sigma-algebra `m` and a measure `μ` if for all
+  `t : ℝ`, `exp (t * X)` is `μ`-integrable and the moment generating function of `X` contioned
+  on `m` is almost surely bounded by `exp (c * t ^ 2 / 2)` for all `t : ℝ`.
+  The actual definition uses `Kernel.HasSubgaussianMGF`: `HasCondSubgaussianMGF` is defined as
+  sub-Gaussian with respect to the conditional expectation kernel for `m` and the restriction of `μ`
+  to the sigma-algebra `m`.
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:67]: These two appear in a different order in the file, can you swap them please?

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 5]
```diff
@@ -0,0 +1,360 @@
...
+almost surely bounded by `exp (c * t ^ 2 / 2)` for all `t : ℝ`.
+
+The actual definition uses `Kernel.HasSubgaussianMGF`: `HasCondSubgaussianMGF` is defined as
+sub-Gaussian with respect to the conditional expectation kernel for `m` and the restriction of `μ`
+to the sigma-algebra `m`. -/
+def HasCondSubgaussianMGF (X : Ω → ℝ) (c : ℝ≥0)
+    (μ : Measure Ω := by volume_tac) [IsFiniteMeasure μ] : Prop :=
+  Kernel.HasSubgaussianMGF X c (condExpKernel μ m) (μ.trim hm)
+
+lemma HasCondSubgaussianMGF.condExp_le (h : HasCondSubgaussianMGF m hm X c μ) (t : ℝ) :
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:267]: You can use the namespace `HasCondSubgaussianMGF` here.

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 6]
```diff
@@ -0,0 +1,360 @@
...
+
+lemma ae_forall_integrable_exp_mul (h : HasSubgaussianMGF X c κ ν) :
+    ∀ᵐ ω' ∂ν, ∀ t, Integrable (fun ω ↦ exp (t * X ω)) (κ ω') := by
+  have h_int (n : ℤ) : ∀ᵐ ω' ∂ν, Integrable (fun ω ↦ exp (n * X ω)) (κ ω') :=
+    h.ae_integrable_exp_mul _
+  rw [← ae_all_iff] at h_int
+  filter_upwards [h_int] with ω' h_int t
+  exact integrable_exp_mul_of_le_of_le (h_int _) (h_int _) (Int.floor_le t) (Int.le_ceil t)
+
+protected lemma memLp (h : HasSubgaussianMGF X c κ ν) (t : ℝ) (p : ℝ≥0) :
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:141]: Maybe this (and also the other versions) should be renamed to `memLp_exp_mul`, like the integrable version, what do you think?

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 7]
```diff
@@ -0,0 +1,360 @@
...
+/-- A random variable `X` has a sub-Gaussian moment generating function with parameter `c`
+with respect to a measure `μ` if for all `t : ℝ`, `exp (t * X)` is `μ`-integrable and
+the moment generating function of `X` is bounded by `exp (c * t ^ 2 / 2)` for all `t : ℝ`. -/
+structure HasSubgaussianMGF (X : Ω → ℝ) (c : ℝ≥0) (μ : Measure Ω := by volume_tac) : Prop where
+  integrable_exp_mul : ∀ t : ℝ, Integrable (fun ω ↦ exp (t * X ω)) μ
+  mgf_le : ∀ t : ℝ, mgf X μ t ≤ exp (c * t ^ 2 / 2)
+
+lemma HasSubgaussianMGF_iff_kernel :
+    HasSubgaussianMGF X c μ
+      ↔ Kernel.HasSubgaussianMGF X c (Kernel.const Unit μ) (Measure.dirac ()) :=
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:307]: Out of curiosity, why didn't you use this as the definition?

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 8]
```diff
@@ -0,0 +1,360 @@
...
+  ⟨fun ⟨h1, h2⟩ ↦ ⟨by simpa, by simpa⟩, fun ⟨h1, h2⟩ ↦ ⟨by simpa using h1, by simpa using h2⟩⟩
+
+namespace HasSubgaussianMGF
+
+lemma aestronglyMeasurable (h : HasSubgaussianMGF X c μ) : AEStronglyMeasurable X μ := by
+  have h_int := h.integrable_exp_mul 1
+  simp only [one_mul] at h_int
+  exact (aemeasurable_of_aemeasurable_exp h_int.1.aemeasurable).aestronglyMeasurable
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:315]:
```suggestion
  simpa using (aemeasurable_of_aemeasurable_exp h_int.1.aemeasurable).aestronglyMeasurable
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 9]
```diff
@@ -0,0 +1,360 @@
...
+@[simp]
+lemma zero [IsZeroOrProbabilityMeasure μ] : HasSubgaussianMGF 0 0 μ := fun_zero
+
+protected lemma of_rat (h_int : ∀ t : ℝ, Integrable (fun ω ↦ exp (t * X ω)) μ)
+    (h_mgf : ∀ q : ℚ, mgf X μ q ≤ exp (c * q ^ 2 / 2)) :
+    HasSubgaussianMGF X c μ where
+  integrable_exp_mul := h_int
+  mgf_le t := by
+    refine Rat.denseRange_cast.induction_on t ?_ h_mgf
+    exact isClosed_le (continuous_mgf h_int) (by fun_prop)
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:339]: Do you really need this? For the general version It seemed useful because it allows to swap `∀` and `∀ᵐ`, but here I am not sure.

**Review by EtienneC30 — COMMENTED** [review]
A few more remarks.

File: Mathlib/Probability/Moments/SubGaussian.lean (hunk 7 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: HasSubgaussianMGF is the definition that people would know about. I wanted the def to be what they'd expect.
It has the downside that it forces me to do some rewrites before applying the kernel results.

File: Mathlib/Probability/Moments/SubGaussian.lean (hunk 9 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:342]: I'll remove it.

File: Mathlib/Probability/Moments/SubGaussian.lean (hunk 7 above)
Comment (EtienneC30) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: This is a good reason. Maybe it is worth explaining this in the docstring of the definition. This would prevent people from searching a result about `HasSubgaussianMGF` which in fact is proved for `Kernel.HasSubgaussianMGF`.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: Yes I'll add explanations. Also it makes me think that another question could be "why did I not do the same for the conditional definition?". And here the answer is different and would also merit an explanation, which I'll add (in the file docstring for example).

The definition I expected at first would have used an integrability condition together with
```lean
∀ᵐ ω' ∂(μ.trim hm), ∀ t, (μ[fun ω ↦ exp (t * X ω) | m]) ω' ≤ exp (c * t ^ 2 / 2)
```
And a subtlety is that this is not the same as what we have with the kernel definition, which is this: 
```lean
∀ᵐ ω' ∂(μ.trim hm), ∀ t, mgf X (condExpKernel μ m ω') t ≤ exp (c * t ^ 2 / 2)
```
The issue is that `condExpKernel` and the conditional expectation are equal `μ`-a.e., but not `(μ.trim hm)`-a.e.
Also `fun t => (μ[fun ω ↦ exp (t * X ω) | m]) ω'` is not the mgf of a measure so we can't use mgf properties (`condExpKernel` is defined precisely to have a version of the conditional expectation that corresponds to a measure, and that needs assumptions on the space).

Comment (EtienneC30) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: Indeed this is subtle. I certainly find it nicer with `condExpKernel`, and anyway we rarely manipulate conditional expectations without good hypotheses on the space.
This question of `μ`-a.e. vs `(μ.trim hm)`-a.e. kind of bothers me though. In the past I have already thought that pinning a measure to a `σ`-algebra was not ideal when I realized that you need to assume `MeasurableSingletonClass` in [MeasureTheory.ae_eq_dirac](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Dirac.html#MeasureTheory.ae_eq_dirac). Although in that particular case you could get around this by lifting `condExpKernel` to `mΩ`.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: A bit more nuance: the trim a.e. equality is true if we have strong measurability:
```
theorem condExp_ae_eq_trim_integral_condExpKernel {F : Type*} [NormedAddCommGroup F] {f : Ω → F}
    [NormedSpace ℝ F] [CompleteSpace F] (hm : m ≤ mΩ) (hf : StronglyMeasurable f)
    (hf_int : Integrable f μ) :
    μ[f|m] =ᵐ[μ.trim hm] fun ω ↦ ∫ y, f y ∂condExpKernel μ m ω := by
 refine StronglyMeasurable.ae_eq_trim_of_stronglyMeasurable hm ?_ ?_ ?_
 · exact stronglyMeasurable_condExp
 · exact hf.integral_condExpKernel
 · exact condExp_ae_eq_integral_condExpKernel hm hf_int
```
However currently in the sub-Gaussian definitions we would get only `μ`-a.e. stong measurability. That's no problem on the left hand side: `μ[f|m] =ᵐ[μ.trim hm] μ[g|m]` if `f =ᵐ[μ] g` (see #22675) so we can get back to a strongly measurable function there.  But I think that's not true on the right hand side, for `fun ω ↦ ∫ y, f y ∂condExpKernel μ m ω `.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: Or I might be completely wrong and the two statements are actually the same. I'll report back soon.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: Indeed I was wrong and I can prove `μ[f|m] =ᵐ[μ.trim hm] fun ω ↦ ∫ y, f y ∂condExpKernel μ m ω` if I have only `Integrable f μ`.
I'll add that lemma in another PR and change various things here.

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: Ok, so what I have now is that for a given `t`, we have the equivalence:
```lean
∀ᵐ ω' ∂(μ.trim hm), (μ[fun ω ↦ exp (t * X ω) | m]) ω' ≤ exp (c * t ^ 2 / 2)
↔ ∀ᵐ ω' ∂(μ.trim hm), mgf X (condExpKernel μ m ω') t ≤ exp (c * t ^ 2 / 2)
```
So we get
```lean
∀ t, ∀ᵐ ω' ∂(μ.trim hm), (μ[fun ω ↦ exp (t * X ω) | m]) ω' ≤ exp (c * t ^ 2 / 2)
↔ ∀ t, ∀ᵐ ω' ∂(μ.trim hm), mgf X (condExpKernel μ m ω') t ≤ exp (c * t ^ 2 / 2)
```
But what we need if we want to show that the conditional expectation and mgf formulations of conditionally sub-Gaussian are the same, is the equivalence of those two things with the eventually and forall switched.

For the `mgf` I can exchange the forall and the eventually by continuity. But the conditional expectation is a different choice of function for each `t`, and it has no reason to be continuous.

(sorry for all the notifications I send you by answering here. Just recording my thoughts)

Comment (EtienneC30) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: No problem, that's interesting. I have an idea, but I didn't check carefully. Can you use convexity to upper bound the conditional expectation with two rationals, and then use continuity of exp(t^2) to recover the inequality?

Comment (EtienneC30) [reply Mathlib/Probability/Moments/SubGaussian.lean:311]: Hmmm this won't work because the conditional expectation is only a.e. linear.

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 10]
```diff
@@ -0,0 +1,386 @@
...
+
+## Main definitions
+
+* `Kernel.HasSubgaussianMGF`: a random variable `X` has a sub-Gaussian moment generating function
+  with parameter `c` with respect to a kernel `κ` and a measure `ν` if for `ν`-almost all `ω'`,
+  for all `t : ℝ`, the moment generating function of `X` with respect to `κ ω'` is bounded by
+  `exp (c * t ^ 2 / 2)`.
+* `HasCondSubgaussianMGF`: a random variable `X` has a conditionally sub-Gaussian moment generating
+  function with parameter `c` with respect to a sigma-algebra `m` and a measure `μ` if for all
+  `t : ℝ`, `exp (t * X)` is `μ`-integrable and the moment generating function of `X` contioned
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:57]:
```suggestion
  `t : ℝ`, `exp (t * X)` is `μ`-integrable and the moment generating function of `X` conditioned
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 11]
```diff
@@ -0,0 +1,386 @@
...
+
+/-! ### Conditionally sub-Gaussian moment generating function -/
+
+variable {Ω : Type*} {m mΩ : MeasurableSpace Ω} {hm : m ≤ mΩ} [StandardBorelSpace Ω]
+  {μ : Measure Ω} [IsFiniteMeasure μ] {X : Ω → ℝ} {c : ℝ≥0}
+
+variable (m) (hm) in
+/-- A random variable `X` has a conditionally sub-Gaussian moment generating function
+with parameter `c` with respect to a sigma-algebra `m` and a measure `μ` if for all `t : ℝ`,
+`exp (t * X)` is `μ`-integrable and the moment generating function of `X` contioned on `m` is
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:274]:
```suggestion
`exp (t * X)` is `μ`-integrable and the moment generating function of `X` conditioned on `m` is
```

**Review by EtienneC30 — COMMENTED** [review]
That's great, thanks!
maintainer delegate

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 12]
```diff
@@ -0,0 +1,386 @@
...
+    (κ : Kernel Ω' Ω) (ν : Measure Ω' := by volume_tac) : Prop where
+  integrable_exp_mul : ∀ t, Integrable (fun ω ↦ exp (t * X ω)) (κ ∘ₘ ν)
+  mgf_le : ∀ᵐ ω' ∂ν, ∀ t, mgf X (κ ω') t ≤ exp (c * t ^ 2 / 2)
+```
+An interesting point is that the integrability condition is not integrability of `exp (t * X)`
+with respect to `κ ω'` for `ν`-almost all `ω'`, but integrability with respect to `κ ∘ₘ ν`.
+This is a stronger condition, as the weaker one did not allow to prove interesting results about
+the sum of two sub-Gaussian random variables.
+
+Fo the conditional case, that integrability condition reduces to integrability of `exp (t * X)`
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/SubGaussian.lean:85]:
```suggestion
For the conditional case, that integrability condition reduces to integrability of `exp (t * X)`
```
conditional or unconditional here?

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:85]: I meant conditional, as written here, but that's actually true for both.

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 13]
```diff
@@ -0,0 +1,386 @@
...
+namespace ProbabilityTheory
+
+section Kernel
+
+variable {Ω Ω' : Type*} {mΩ : MeasurableSpace Ω} {mΩ' : MeasurableSpace Ω'}
+  {ν : Measure Ω'} {κ : Kernel Ω' Ω} {X : Ω → ℝ} {c : ℝ≥0}
+
+/-! ### Sub-Gaussian with respect to a kernel and a measure -/
+
+/-- A random variable `X` has a sub-Gaussian moment generating function with parameter `c`
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/SubGaussian.lean:123]: Could you emphasize in this definition and the other ones that this implies zero expectation? This is not obvious from the name, as subgaussianity is typically more a condition at infinity.

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 14]
```diff
@@ -0,0 +1,386 @@
...
+    rw [mgf_congr (Filter.EventuallyEq.symm h')]
+    exact h_mgf t
+
+lemma _root_.ProbabilityTheory.Kernel.HasSubgaussianMGF_congr {Y : Ω → ℝ} (h : X =ᵐ[κ ∘ₘ ν] Y) :
+    HasSubgaussianMGF X c κ ν ↔ HasSubgaussianMGF Y c κ ν :=
+  ⟨fun hX ↦ congr hX h, fun hY ↦ congr hY (ae_eq_symm h)⟩
+
+section ChernoffBound
+
+lemma measure_ge_le_exp_add [IsFiniteKernel κ] (h : HasSubgaussianMGF X c κ ν) (ε : ℝ) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/SubGaussian.lean:229]: Do you really need the kernel to be finite here? The subgaussian assumption implies that, almost everywhere, the total mass of `κ ω'` is at most 1 (take `t = 0`), is that enough for your needs?

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:229]: The sub-Gaussian assumption at 0 gives me that a.e. `(κ ω' Set.univ).toReal ≤ 1`, but due to the `toReal` that's also true if the mass is infinite.

Comment (sgouezel) [reply Mathlib/Probability/Moments/SubGaussian.lean:236]: true, but `ae_integrable_exp_mul` with `t = 0` tells you that the constant 1 is integrable, so this should exclude the infinite mass case, no?

Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:236]: That one indeed works.

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 15]
```diff
@@ -0,0 +1,392 @@
...
+
+lemma measure_univ_le_one (h : HasSubgaussianMGF X c κ ν) :
+    ∀ᵐ ω' ∂ν, κ ω' Set.univ ≤ 1 := by
+  filter_upwards [h.ae_integrable_exp_mul 0, h.mgf_le] with ω' h h_mgf
+  simp only [zero_mul, exp_zero, integrable_const_iff, one_ne_zero, false_or] at h
+  suffices (κ ω' Set.univ).toReal ≤ 1 by
+    rwa [← ENNReal.ofReal_one, ENNReal.le_ofReal_iff_toReal_le (measure_ne_top _ _) zero_le_one]
+  simpa [mgf] using h_mgf 0
+
+lemma isFiniteMeasure( h : HasSubgaussianMGF X c κ ν) :
```
Comment (sgouezel) [inline Mathlib/Probability/Moments/SubGaussian.lean:196]:
```suggestion
lemma isFiniteMeasure (h : HasSubgaussianMGF X c κ ν) :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
